US08476286B2
N-{3-[4-(4-Isopropyl-phenyl)-2-oxo-6-propargyloxy-2H-quinazolin-1-ylmethyl]-phenyl}-2-[4-(2-methoxy-ethyl)-piperazin-1-yl]-N-methyl-acetamide
A solution of 1.20 g (2 mmol) of N-{3-[4-(4-isopropyl-phenyl)-2-oxo-6-propargyloxy-2H-quinazolin-1-ylmethyl]-phenyl}-2-[4-(2-methoxy-ethyl)-piperazin-1-yl]-acetamide is treated with 4.1 ml 0.5 M LDA-solution (in THF) and 0.35 ml (2.0 mmol) HMPT at −78° C. The cooling bath is removed and stirring continued for half an hour while the solution turns slowly red. The reaction mixture is cooled down again to −78° C., 284 μl methyl iodide (2 mmol; diluted with 5 ml THF) is added. After stirring overnight at rt, the orange solution is concentrated in vacuo The yellow foamy residue is purified by chromatography (CH2Cl2/MeOH 9:1). Yield: 480 mg (13%) yellow foam.

reactant | N-{3-[4-(4-isopropyl-phenyl)-2-oxo-6-propargyloxy-2H-quinazolin-1-ylmethyl]-phenyl}-2-[4-(2-methoxy-ethyl)-piperazin-1-yl]-acetamide | 2 mmol, 1.20 g | C(C)(C)C1=CC=C(C=C1)C1=NC(N(C2=CC=C(C=C12)OCC#C)CC=1C=C(C=CC1)NC(CN1CCN(CC1)CCOC)=O)=O | C36H41N5O4
reactant | LDA | 0.5 M, 4.1 ml | [Li+].CC(C)[N-]C(C)C
reactant | HMPT | 2.0 mmol, 0.35 ml | CN(C)P(=O)(N(C)C)N(C)C | C6H18N3OP
reactant | methyl iodide | 2 mmol, 284 μl | CI | CH3I
product | N-{3-[4-(4-Isopropyl-phenyl)-2-oxo-6-propargyloxy-2H-quinazolin-1-ylmethyl]-phenyl}-2-[4-(2-methoxy-ethyl)-piperazin-1-yl]-N-methyl-acetamide | C(C)(C)C1=CC=C(C=C1)C1=NC(N(C2=CC=C(C=C12)OCC#C)CC=1C=C(C=CC1)N(C(CN1CCN(CC1)CCOC)=O)C)=O | C37H43N5O4
